*  AD823an Spice Macro-model                  4/16/97, Rev C, SMR
*
*  Copyright 1996 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with
* the terms and provisions in the License Statement.
*
* The following parameters are accurately modeled;
*
*    open loop gain and phase vs frequency
*    output clamping voltage and current
*    input common mode range
*    CMRR vs freq
*    I bias vs Vcm in    
*    Slew rate
*    Output currents are reflected to V supplies
*    Voltage and current noise density are accurate
*    for the entire bandwidth of the AD823
*
*    Vos is static and will not vary with Vcm input
*
*    Step response is modeled at unity gain w/1k load 
*
*    Distortion is not characterized
*
*    This model of the AD823 works at 3.3v
*
*    Node assignments
*                non-inverting input
*                |   inverting input
*                |   |   positive supply
*                |   |   |   negative supply
*                |   |   |   |   output
*                |   |   |   |   |
.SUBCKT AD823an  1   2   99  50  11  

***** Input Stage/pole at 50mhz

R1 1 13 5e12
R2 13 2 5e12
fn1 98 1 vn2 1
fn2 98 2 vn2 1
cin1 1 98 1.8e-12
cin2 2 98 1.8e-12
J1 24 1 25 jx
J2 24 14 26 jx
R3 99 25 708
R4 99 26 708
Cp 25 26 0.65pf
Ibt 24 50 0.62ma
Ib1 1 98 5p
Ib2 2 98 5p
Eos 2 12 poly(1) 34 98 0.2e-3 1
Enoise 12 14 36 98 1

***** Input V noise source

dn1 35 98 dn1
rn1 35 98 6.5e-5
vn1 35 98 0

hn1 36 98 vn1 1
rn2 36 98 1

***** Input I noise source

rn3 37 98 1.6e10
vn2 37 98 0

hn2 38 98 vn2 1
rn4 38 98 1

***** Gain Stage & Pole @ 300Hz

Vd1 99 3 0.91
Vd2 4 50 0.91
Gg1 99 5 26 25 1.413e-3
Gg2 5 50 25 26 1.413e-3
D1 5 3 dx
D2 4 5 dx
Rg1 99 5 21.23e6
Rg2 50 5 21.23e6
Cdp1 99 5 25pf
Cdp2 50 5 25pf

***** Internal Reference

Eref1 98 0 poly(2) (99,0) (50,0) 0 0.5 0.5  
Eref2 97 0 poly(2) (1,0) (2,0) 0 0.5 0.5

***** Common Mode Gain Network/Pole at 10khz

Gacm1 15 98 98 97 1.4
Lacm2 15 29 10e-9
Racm2 29 98 1e-3

***** Common Mode Gain Network/Zero at 300hz

Ecm1  30 98 15 98 70e-3
Racm3 30 31 1.67e3
Racm4 31 32 100e-3
Lacm3 32 98 53e-6

***** Common Mode Gain Network/Pole at 5mhz

Ecm2  33 98 31 98 1
Lacm4 33 34 31.8u
Racm 34 98 1k 

***** Zero/Pole Stages (20MHz/50MHz))

ezp  16 98 5 98 2.5
rzp1 16 17 188
rzp2 17 18 126
lzp  18 98 1u

***** Buffer to output stage

gbuf  98 19 17 98 1e-4
Rbuf  19 98 10k

***** Output Stage

fo1 98 90 vcd 1
Do1 90 91 dx
Do2 92 90 dx
vi1 91 98 0
vi2 98 92 0

fsy 99 50 poly(2) vi1 vi2 5.7e-3 1 1 

Go3 10 99 99 19 50m
Go4 50 10 19 50 50m
Ro3 99 10 20
Ro4 10 50 20
vcd 10 95 0
lo1 95 11 1e-10
ro 11 98 1e6
Do5 19 20 dx
Do6 21 19 dx
Vo1 20 10 -0.3
Vo2 10 21 -0.4

.model dx d(IS=1e-15) 
.model dn1 d(is=1e-15 af=0 kf=1e-12)
.model jx njf(beta=3e-3 vto=-1 Is=1e-12) 
.ends ad823an
